US07608716B2
A mixture of 4-hydroxy-1-phenyl-1,8-naphthyridin-2 (1H)-one (2.0 g, 8.4 mmol; synthesized according to JP, A, 61-246183 (1986)), 3-(pyridin-4-yl)propionic acid (19.03 g, 126 mmol, 15 eq.) and polyphosphoric acid (about 100 ml) was heated overnight at 150° C. while stirring. The mixture was poured into water with stirring to form a solution while it was occasionally cooled. The operation including 3 times washing of the aqueous layer with chloroform, then addition of saturated aqueous sodium hydrogen carbonate followed by occasional extraction with chloroform was repeated until the aqueous layer was made pH3 to 3.5. The organic layers which were collected during neutralizing were pooled, dried over anhydrous magnesium sulfate, and then evaporated to give a residue which was purified by flash column chromatography to afford 4-hydroxy-3-[1-oxo-3-(pyridin-4-yl)propyl]-1-phenyl-1,8-naphthyridin-2 (1H)-one (1.59 g, 51%) as crystals.

reactant | 4-hydroxy-1-phenyl-1,8-naphthyridin-2 (1H)-one | 8.4 mmol, 2.0 g | OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C14H10N2O2
reactant | 3-(pyridin-4-yl)propionic acid | 126 mmol, 19.03 g, 15 eq. | N1=CC=C(C=C1)CCC(=O)O | C8H9NO2
solvent | water | O | H2O
product | 4-hydroxy-3-[1-oxo-3-(pyridin-4-yl)propyl]-1-phenyl-1,8-naphthyridin-2 (1H)-one | 1.59 g, 51% | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)C(CCC1=CC=NC=C1)=O | C22H17N3O3
